US08476297B2
Step 2: (R)—N-(4,4-Difluorocyclohexyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (80 mg, 0.29 mmol) in MeCN (2 mL) was added 4-nitrophenyl 4,4-difluoro-cyclohexylcarbamate (217 mg, 0.72 mmol). The resulting mixture was then subjected to microwave irradiation at 120° C. for 15 min. Then, MeOH (0.5 mL) was added and the mixture was filtered. The filtrate was purified by preparative HPLC (0%-100% MeCN 0.1% TFA/H2O 0.1% TFA) to give the title compound, which was dissolved in MeOH (1 mL). The solution was then passed through PL-HCO3 and the resin was washed with MeOH (2×0.3 mL). The combined filtrates were concentrated and dried in vacuo to give the title compound as a light-yellow solid. MS (ESI, positive ion) m/z: 439 (M+H).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.29 mmol, 80 mg | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | 4-nitrophenyl 4,4-difluoro-cyclohexylcarbamate | 0.72 mmol, 217 mg | FC1(CCC(CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)F | C13H14F2N2O4
reactant | MeOH | 0.5 mL | CO | CH4O
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (R)—N-(4,4-Difluorocyclohexyl)-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC1(CCC(CC1)NC(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F)F | C23H23F5N2O
